US07910595B2
A mixture of 4-chloro-3-nitrobenzoyl chloride was reacted with Thiazol-2-ylamine to produce 4-Chloro-3-nitro-N-thiazol-2-yl-benzamide according to the procedure of Example 10A, which was treated sequentially using the procedures from Examples 22A and 22B to provide the title product.

reactant | 4-chloro-3-nitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | Thiazol-2-ylamine | S1C(=NC=C1)N | C3H4N2S
product | 4-Chloro-3-nitro-N-thiazol-2-yl-benzamide | ClC1=C(C=C(C(=O)NC=2SC=CN2)C=C1)[N+](=O)[O-] | C10H6ClN3O3S
